US07977358B2
In analogy to the procedure described in Example 14C] but with 2.8 eq of K3PO4, 5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid ethyl ester and benzo[b]furan-2-boronic acid gave 5-(3-benzofuran-2-yl-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid ethyl ester in 73% yield as light brown foam. MS: 361.4 (MH+).

reactant | K3PO4 | 2.8 eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1C)C1=CC(=CC=C1)Br)C | C14H15BrN2O2
reactant | benzo[b]furan-2-boronic acid | O1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO3
product | 5-(3-benzofuran-2-yl-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid ethyl ester | 73% yield | C(C)OC(=O)C1=NN(C(=C1C)C1=C(C=CC=C1)C1=CC2=C(O1)C=CC=C2)C | C22H20N2O3
